US04377580
A mixture of 2-amino-5-nitrobenzonitrile (48.9 g), anhydrous potassium carbonate (45.6 g), formamide (240 ml) and N,N-dimethylformamide (200 ml) was stirred for 50 minutes at 150° C. and then cooled to ambient temperature. To the resultant mixture was added a small volume of water with stirring. Precipitated crystals were separated by filtration, washed three times with water and dried under reduced pressure to give crystalline 4-amino-6-nitroquinazoline (50.1 g).

reactant | 2-amino-5-nitrobenzonitrile | 48.9 g | NC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | potassium carbonate | 45.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | formamide | 240 ml | C(=O)N | CH3NO
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-amino-6-nitroquinazoline | 50.1 g | NC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C8H6N4O2
